US06248764B1
[2-(4-Bromo-benzyl)-4,5-dimethyl-furan-3-yl]-(3,5-diisopropyl-4-hydroxy-phenyl)-methanone
The title compound was prepared according to the procedure in Example 5, step 3 using [2-(4-bromo-benzyl)-4,5-dimethyl-furan-3-yl]-(3,5-diisopropyl-4-methoxy-phenyl)-methanone (1.61 g, 3.32 mmol) and 1M boron tribromide/CH2Cl2 (6.97 mL) in CH2Cl2. Purification on Biotage KP-Sil eluting with 15% acetone/hexane gave 1.37 g (88%) of the title compound. 1H NMR (DMSO-d6) δ1.12 (d, 12H), 1.78 (s, 3H), 2.17 (s, 3H), 3.30 (septet, 2H), 3.81 (s, 2H), 7.01 (dd, 2H), 7.40 (s, 2H), 7.42 (d, 2H), 9.10 (s, 1H). IR (KBr) 3400, 2950, 1640, 1580 and 1310 cm−1. mass spectrum (EI) m/z 468 (M+). Anal. Calcd. for C26H29BrO3: C, 66.53; H, 6.23; N, 0.00. Found: C, 66.57; H, 6.39; N, 0.05.

reactant | [2-(4-bromo-benzyl)-4,5-dimethyl-furan-3-yl]-(3,5-diisopropyl-4-methoxy-phenyl)-methanone | 3.32 mmol, 1.61 g | BrC1=CC=C(CC=2OC(=C(C2C(=O)C2=CC(=C(C(=C2)C(C)C)OC)C(C)C)C)C)C=C1 | C27H31BrO3
reactant | boron tribromide CH2Cl2 | 1M, 6.97 mL | B(Br)(Br)Br.C(Cl)Cl
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | [2-(4-Bromo-benzyl)-4,5-dimethyl-furan-3-yl]-(3,5-diisopropyl-4-hydroxy-phenyl)-methanone | 1.37 g, 88% | BrC1=CC=C(CC=2OC(=C(C2C(=O)C2=CC(=C(C(=C2)C(C)C)O)C(C)C)C)C)C=C1 | C26H29BrO3
